US06924278B2
To a suspension of 1-acetyl-3-(2,3-dimethoxybenzyl)-2,5-piperazinedione (2.49 g) in tetrahydrofuran (38 ml) was added hydrazine monohydrate (0.43 ml) at room temperature and the mixture was stirred at the same temperature for 30 minutes. The resulting precipitates were collected by filtration and washed with tetrahydrofuran to give powders of 3-(2,3-dimethoxybenzyl)-2,5-piperazinedione (1.40 g)

reactant | 1-acetyl-3-(2,3-dimethoxybenzyl)-2,5-piperazinedione | 2.49 g | C(C)(=O)N1C(C(NC(C1)=O)CC1=C(C(=CC=C1)OC)OC)=O | C15H18N2O5
reactant | hydrazine monohydrate | 0.43 ml | O.NN
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | 3-(2,3-dimethoxybenzyl)-2,5-piperazinedione | 1.40 g | COC1=C(CC2C(NCC(N2)=O)=O)C=CC=C1OC | C13H16N2O4
